US04117125
To a solution of 10 mmol of 1-[2-[[(carbethoxy)-methyl]amino]ethyl]-5-[(4-methoxybenzyl)thio]-1H-tetrazole and 10 mmol of triethylamine in 20 ml. of dry tetrahydrofuran is added 10 mmol of methyliodide. After stirring at room temperature for 24 hours, the mixture is filtered. The filtrate is stripped in vacuo to dryness, and the residue is dissolved in chloroform and chromatographed on silica gel eluting with a gradient of ethylacetate in chloroform. Evaporation of the product-containing fractions gives 1-[2-[[(carbethoxy)methyl]methylamino]ethyl]-5-[(4-methoxy-benzyl)thio]-1H-tetrazole. Deblocking with mercuric acetate as above gives 1-[2-[(carboxymethyl)methylamino]ethyl]-1,4-dihydro-5H-tetrazole-5-thione which when substituted in the reaction with 7-D-mandelamidocephalosporanic acid gives 7-D-mandelamido-3-[1-[2-[(carboxymethyl)methylamino]ethyl]tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid.

reactant | 1-[2-[[(carbethoxy)-methyl]amino]ethyl]-5-[(4-methoxybenzyl)thio]-1H-tetrazole | 10 mmol | C(=O)(OCC)CNCCN1N=NN=C1SCC1=CC=C(C=C1)OC | C15H21N5O3S
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | methyliodide | 10 mmol | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[2-[[(carbethoxy)methyl]methylamino]ethyl]-5-[(4-methoxy-benzyl)thio]-1H-tetrazole | C(=O)(OCC)CN(CCN1N=NN=C1SCC1=CC=C(C=C1)OC)C | C16H23N5O3S
